US05371069
A mixture of piperonal (60 g, 0.4 mol), triethyl orthoformate (59.2 g, 0.4 mol), toluene (250 mL) and p-toluenesulfonic acid (2 g, 0.01 mol) was heated at 100°-110° C. for 0.5 h. Diethyl L-tartrate (103 g, 0.5 mol) was added to the hot solution over a 10 min. period. The mixture was then heated at reflux for 2 h. Subsequently over a 3 hour period, distillate (150 mL) was collected (pot temperature 84° C. to 110° C). The mixture was cooled (25° C.) and washed with sodium bicarbonate solution (2×50 mL) and brine (1×50 mL). Evaporation of solvents under reduced pressure provided 130.7 g of crude product. Recrystallization from methanol provided 90 g (67% yield) of (4R,5R)-2-(3,4-methylenedioxyphenyl-4,5-dicarboethoxy-1,3-dioxolane, mp 39°-40° C., [α]D25 -34.8° (c, 1.0 methanol). 1H-NMR (CDCl3)δ7.12 (1H,d,J=1.5 Hz), 7.03 (1H,dd,J= 1.5 Hz and 7.9 Hz), 6.80 (1H,d,J=7.9 Hz), 6.06 (1H,s), 5.97 (2H,s), 4.91 (1H,d,J=4.0 Hz), 4.80 (1H,d,J=4.0 Hz), 4.36-4.26 (4H, 2 q, overlapping, J=7.0 Hz), 1.38-1.30 (6H, 2 t, overlapping, J=7.0 Hz). IR (KBr) 2980, 2900, 1735, 1490, 1445, 1415 cm-1. MS m/e (% abundance) 338 (3), 265 (16), 166 (100), 149 (96), 135 (54), 121 (35), 93 (10), 65 (12), 43 (8).

reactant | piperonal | 0.4 mol, 60 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | triethyl orthoformate | 0.4 mol, 59.2 g | C(OCC)(OCC)OCC | C7H16O3
reactant | p-toluenesulfonic acid | 0.01 mol, 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Diethyl L-tartrate | 0.5 mol, 103 g | C(=O)(OCC)[C@H](O)[C@@H](O)C(=O)OCC | C8H14O6
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 3,4-methylenedioxyphenyl-4,5-dicarboethoxy-1,3-dioxolane | 67% yield | C1OC=2C=C(C=CC2O1)C1OC(C(O1)C(=O)OCC)C(=O)OCC | C16H18O8
